### PR TITLE
[Merged by Bors] - feature(Analysis/Normed/Module/Dual): Add a few polar lemmas 

### PR DESCRIPTION
**Pull request by mans0954**
Adds a few trivial polar lemmas.

CC: @urkud 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/LocallyConvex/Polar.lean [hunk 1]
```diff
@@ -64,6 +64,10 @@ theorem polar_mem (s : Set E) (y : F) (hy : y ∈ B.polar s) : ∀ x ∈ s, ‖B
 theorem zero_mem_polar (s : Set E) : (0 : F) ∈ B.polar s := fun _ _ => by
   simp only [map_zero, norm_zero, zero_le_one]
 
+instance (s : Set E) : Nonempty (B.polar s) := by
```
Comment (urkud) [inline Mathlib/Analysis/LocallyConvex/Polar.lean:67]: Since `polar _ _` is a set, we usually use a theorem claiming `Set.Nonempty`, not an instance claiming `_root_.Nonempty`. Do you need the instance for some reason?

File: Mathlib/Analysis/Normed/Module/Dual.lean [hunk 2]
```diff
@@ -159,6 +159,14 @@ variable {E : Type*} [SeminormedAddCommGroup E] [NormedSpace 𝕜 E]
 theorem mem_polar_iff {x' : Dual 𝕜 E} (s : Set E) : x' ∈ polar 𝕜 s ↔ ∀ z ∈ s, ‖x' z‖ ≤ 1 :=
   Iff.rfl
 
+@[simp]
+theorem zero_mem_polar (s : Set E) : (0 : Dual 𝕜 E) ∈ polar 𝕜 s := fun _ _ => by
```
Comment (urkud) [inline Mathlib/Analysis/Normed/Module/Dual.lean:163]: Why not reuse `LinearMap.zero_mem_polar` in the proof? I think that `LinearMap.zero_mem_polar _ s` will work as a proof.

File: Mathlib/Analysis/LocallyConvex/Polar.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/Polar.lean:67]: @urkud currently I'm using it here: https://github.com/leanprover-community/mathlib4/pull/16316/files#diff-b605c62b370366aa8783f5424b695ad108ee3f82e0f878dc48c9c3ade63cd8c2R343

Maybe there's another way to do that though?

File: Mathlib/Analysis/Normed/Module/Dual.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/Analysis/Normed/Module/Dual.lean]: Yes, done, thanks.

File: Mathlib/Analysis/LocallyConvex/Polar.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/Polar.lean]: I've fixed #16316 using `haveI` (for now at least). I've made the instances in this PR theorems instead.

File: Mathlib/Analysis/LocallyConvex/Polar.lean [hunk 3]
```diff
@@ -64,6 +64,10 @@ theorem polar_mem (s : Set E) (y : F) (hy : y ∈ B.polar s) : ∀ x ∈ s, ‖B
 theorem zero_mem_polar (s : Set E) : (0 : F) ∈ B.polar s := fun _ _ => by
   simp only [map_zero, norm_zero, zero_le_one]
 
+theorem polar_nonempty (s : Set E) : Nonempty (B.polar s) := by
+  use 0
+  exact zero_mem_polar B s
+
```
Comment (urkud) [inline Mathlib/Analysis/LocallyConvex/Polar.lean:70]: You can use
```suggestion
theorem polar_nonempty (s : Set E) : Set.Nonempty (B.polar s) := by
  use 0
  exact zero_mem_polar B s

instance polar.instNonempty (s : Set E) : Nonempty (B.polar s) :=
  (polar_nonempty s).to_subtype
```
if you need an instance (same below). Note that the theorem uses `Set.Nonempty`, not `_root_.Nonempty`.
Thanks!
bors d+

Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/Polar.lean]: Thanks, I've changed both the `polar_nonempty` results to use `Set.Nonempty`. I'll keep the instances out of this PR and add them to #16316 instead so they can be considered there.
